US09062076B2
To a stirred solution of methyl 2-aminobenzoate (906 mg, 6.0 mmol) and NaHCO3 (554.4 mg, 6.6 mmol) in THF (12 mL) and water (12 mL) at 0° C. was added 2-chloroacetyl chloride (806 mg, 7.2 mmol) dropwise. After 2 hours, the mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated under reduced pressure to afford the crude product. The residue was purified by flash chromatography to give methyl 2-(2-chloroacetamido)benzoate (1.31 g, 96%). LC-MS (ES-API); rt 8.65 min; m/z calculated for C10H10ClNO3 [M+Na]+ 250.0, found 250.0.

reactant | methyl 2-aminobenzoate | 6.0 mmol, 906 mg | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | NaHCO3 | 6.6 mmol, 554.4 mg | C(=O)(O)[O-].[Na+]
reactant | 2-chloroacetyl chloride | 7.2 mmol, 806 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | 12 mL | O | H2O
product | methyl 2-(2-chloroacetamido)benzoate | 1.31 g, 96% | ClCC(=O)NC1=C(C(=O)OC)C=CC=C1 | C10H10ClNO3
